US05294631
To a stirred solution of 3-nitro-2,5,6-trichlorobenzoic acid (37.1 mmol, 10.0 g) in 150 mL of toluene, was added 2-chlorobenzylamine (81.6 mmol, 11.56 g). The reaction mixture was refluxed overnight, poured into dilute hydrochloric acid and vigorously stirred. The resulting solid was filtered. The product was dissolved in toluene and then precipitated with diethyl ether. Recrystallization of the product from methanol gave 3.4 g of 2-[2-chlorophenyl)methyl]amino-5,6-dichloro-3-nitrobenzoic acid; mp 168.5°-171° C.

reactant | 3-nitro-2,5,6-trichlorobenzoic acid | 37.1 mmol, 10.0 g | [N+](=O)([O-])C=1C(=C(C(=O)O)C(=C(C1)Cl)Cl)Cl | C7H2Cl3NO4
reactant | 2-chlorobenzylamine | 81.6 mmol, 11.56 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | amino-5,6-dichloro-3-nitrobenzoic acid | NC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])Cl)Cl | C7H4Cl2N2O4
